US05322835
Preparation of 3-[7-fluoro-4-propargyl-2H-1,4-benzoxazin-3(4H)-on-6-yl]-5-isopropylidene-1,3-oxazolidine-2,4-dione (Compound No. 9)
To a solution of 7-fluoro-6-isocyanato-4-propargyl-2H-1,4-benzoxazin-3(4H)-one (2.5 g) and methyl 2-hydroxy-3-methyl-3-butenoate (1.3 g) in benzene (50 ml), DBU (1.5 g) was added at room temperature. The resulting mixture was refluxed for 10 hours, cooled to room temperature, combined with water and extracted with ethyl acetate. The organic layer was washed with water, dried over magnesium sulfate and concentrated. The residue was purified by silica gel column chromatography using a mixture of toluene and ethyl acetate as the eluent to give Compound No. 9 (3.0 g).

reactant | 7-fluoro-6-isocyanato-4-propargyl-2H-1,4-benzoxazin-3(4H)-one | 2.5 g | FC1=CC2=C(N(C(CO2)=O)CC#C)C=C1N=C=O | C12H7FN2O3
reactant | methyl 2-hydroxy-3-methyl-3-butenoate | 1.3 g | OC(C(=O)OC)C(=C)C | C6H10O3
reactant | DBU | 1.5 g | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | water | O | H2O
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
product | 3-[7-fluoro-4-propargyl-2H-1,4-benzoxazin-3(4H)-on-6-yl]-5-isopropylidene-1,3-oxazolidine-2,4-dione | FC1=CC2=C(N(C(CO2)=O)CC#C)C=C1N1C(OC(C1=O)=C(C)C)=O | C17H13FN2O5
